US04481142
9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-5-ol acetate
A mixture of 3 g (8 mmole) of 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide and 50 ml of acetic anhydride was heated on the steam bath for 22 hrs. The reaction mixture was concentrated at reduced pressure to dryness and the residue was crystallized from a mixture of methylene chloride and ether to give a product of mp 211°-212° C. Recrystallization from a mixture of methylene chloride and ether gave the pure product as colorless prisms, mp 211°-212° C.

reactant | 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide | 8 mmole, 3 g | ClC1=CC2=C(C3=C(C[N+](=C2C2=C(C=CC=C2)Cl)[O-])C=NC=N3)C=C1 | C18H11Cl2N3O
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-5-ol acetate | C(C)(=O)OC1N=C(C2=C(C3=C1C=NC=N3)C=CC(=C2)Cl)C2=C(C=CC=C2)Cl | C20H13Cl2N3O2
